US04430339
Sodium 2-(3-cyclohexylpropyl)-oxirane-2-carboxylate
1.1 g of 2-(3-cyclohexylpropyl)-oxirane-2-carboxylic acid ethyl ester are stirred for 2 hours at room temperature with 4.58 ml of 1 N sodium hydroxide solution and 5 ml of tetrahydrofuran. The mixture is concentrated to half its volume and the crystals of the title compound which have been precipitated are filtered off. Mp 105°-110° C.

reactant | 2-(3-cyclohexylpropyl)-oxirane-2-carboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)C1(OC1)CCCC1CCCCC1 | C14H24O3
reactant | sodium hydroxide | 1 N, 4.58 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Sodium 2-(3-cyclohexylpropyl)-oxirane-2-carboxylate | C1(CCCCC1)CCCC1(OC1)C(=O)[O-].[Na+] | InChI=1S/C12H20O3.Na/c13-11(14)12(9-15-12)8-4-7-10-5-2-1-3-6-10;/h10H,1-9H2,(H,13,14);/q;+1/p-1
